US07049629B2
A solution of 1,4-dibromo-2,5-dioctyloxybezene (6.580 grams, 13.365 mmol) in 15 milliliters of anhydrous tetrahydrofuran (THF) was added slowly over a period of 20 minutes to a mechanically stirred suspension of magnesium turnings (0.975 gram, 40.095 mmol) in 5 milliliters of THF in a 250 milliliter round-bottomed flask under an inert argon atmosphere. The resultant mixture was stirred at 60° C. for 3.5 hours. Subsequently, the resulting mixture was added to a mixture of 2-bromothiophene (5.447 grams, 33.412 mmol) and [1,3-bis(diphenylphosphinoethane]dichloronickel (II) (0.350 gram, 0.663 mmol) in 45 milliliters of anhydrous THF in a 250 milliliter round-bottomed flask under an inert atmosphere, and refluxed for 24 hours. Thereafter, the reaction mixture was diluted with 200 milliliters of ethyl acetate, washed twice with water and then dried with anhydrous magnesium sulfate. A brown solid, obtained after evaporation of the solvent, was purified by column chromatography on silica gel and recrystallization yielding 1,4-bis(2-thienyl)-2,5-dioctyloxybenzene as a light yellow crystalline product in 45 percent yield.

reactant | 1,4-dibromo-2,5-dioctyloxybezene | 13.365 mmol, 6.580 grams | BrC1=C(C=C(C(=C1)OCCCCCCCC)Br)OCCCCCCCC | C22H36Br2O2
reactant | magnesium | 40.095 mmol, 0.975 gram | [Mg] | Mg
reactant | 2-bromothiophene | 33.412 mmol, 5.447 grams | BrC=1SC=CC1 | C4H3BrS
solvent | tetrahydrofuran | 15 milliliters | O1CCCC1 | C4H8O
solvent | THF | 5 milliliters | O1CCCC1 | C4H8O
solvent | THF | 45 milliliters | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 milliliters | C(C)(=O)OCC | C4H8O2
product | 1,4-bis(2-thienyl)-2,5-dioctyloxybenzene | 45 percent yield | S1C(=CC=C1)C1=C(C=C(C(=C1)OCCCCCCCC)C=1SC=CC1)OCCCCCCCC | C30H42O2S2
